US07368578B2
To a mixture of 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-5-methyl-1,3-oxazole (3.50 g), ethyl 1-ethyl-3-hydroxy-1H-pyrazole-4-carboxylate (1.50 g) and N,N-dimethylformamide (30 mL) was added sodium hydride (60% in oil, 0.36 g) at room temperature, and the mixture was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give ethyl 1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carboxylate as colorless crystals (2.94 g, yield 75%) from a fraction eluted with ethyl acetate-hexane (2:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 114-115° C.

reactant | 4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-2-(2-furyl)-5-methyl-1,3-oxazole | 3.50 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C17H16ClNO4
reactant | ethyl 1-ethyl-3-hydroxy-1H-pyrazole-4-carboxylate | 1.50 g | C(C)N1N=C(C(=C1)C(=O)OCC)O | C8H12N2O3
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.36 g | [H-].[Na+]
solvent | Water | O | H2O
product | ethyl 1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carboxylate | 2.94 g, yield 75% | C(C)N1N=C(C(=C1)C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C25H27N3O7
